US04402960
A solution of 2.164 g of 3-chloroperbenzoic acid (80%) in 150 ml of dichloromethane is added dropwise to a solution of 4.90 g of 4,5-bis(4-chlorophenyl)-2-(2-thienylthio)imidazole in 100 ml of dichloromethane. The solution is stirred for 3 hours at room temperature, washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 150 g of silica gel with acetone/hexane, yielding 3.83 g of 4,5-bis(4-chlorophenyl)-2-(2-thienylsulfinyl)imidazole as an amorphous foam.

reactant | 3-chloroperbenzoic acid | 2.164 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-chlorophenyl)-2-(2-thienylthio)imidazole | 4.90 g | ClC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)Cl)SC=1SC=CC1 | C19H12Cl2N2S2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-bis(4-chlorophenyl)-2-(2-thienylsulfinyl)imidazole | 3.83 g | ClC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)Cl)S(=O)C=1SC=CC1 | C19H12Cl2N2OS2
